US08431695B2
Step 3: Preparation of tert-Butyl (4-bromo-2-cyano-1H-pyrrol-1-yl)carbamate
A 1 L, 3-neck RB flask was fitted with a mechanical stirrer, nitrogen inlet, thermocouple and thermocontroller, and dry-ice acetonitrile cooling. 2-Cyano-pyrrol-1-yl-carbamic acid, tert-butyl ester (20 g, 96.5 mmol) was added and dissolved in 350 mL acetonitrile and cooled to below −30° C. 1,3-Dibromo-5,5-dimethylhydantoin (13.79 g, 48.26 mmol) was added as a solid, and the reaction was allowed to warm to rt over 2 h. Analysis by RP-HPLC at 2 h indicated that about 10% starting material remained. The reaction was cooled again to below −30° C. and treated with additional 1,3-dibromo-5,5-dimethylhydantoin (1.3 g, 4.8 mmol). The reaction was allowed to warm slowly to rt over 3 h. The reaction was diluted with 500 mL EtOAc and transferred to a separatory funnel. The organic layer was washed with 1N aq sodium carbonate, water and brine and then dried with sodium sulfate. Filtration of the organic layer through silica gel removed much of the colored impurities. Evaporation of the solvent under vacuum provided reddish oil, which provided orange-brown crystals of the desired product upon seeding (27.16 g, 98%). 1H-NMR (DMSO): δ 10.95 (bs, 1H), 7.61 (d, 1H, J=2.0 Hz), 7.16 (d, 1H, J=2 Hz), 1.44 (s, 9H, J=4.4, 1.7 Hz). MS: LC/MS (+esi), m/z=[M+H].

reactant | dry-ice acetonitrile | C(=O)=O.C(C)#N
reactant | 2-Cyano-pyrrol-1-yl-carbamic acid, tert-butyl ester | 96.5 mmol, 20 g | C(#N)C=1N(C=CC1)NC(OC(C)(C)C)=O | C10H13N3O2
reactant | 1,3-Dibromo-5,5-dimethylhydantoin | 48.26 mmol, 13.79 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 4.8 mmol, 1.3 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
solvent | acetonitrile | 350 mL | C(C)#N | C2H3N
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl (4-bromo-2-cyano-1H-pyrrol-1-yl)carbamate | BrC=1C=C(N(C1)NC(OC(C)(C)C)=O)C#N | C10H12BrN3O2
